US07781436B2
[1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone (preparation described herein), with (commercially available) 2-chloro-ethylamine gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C19H17ClFN3O
reactant | 2-chloro-ethylamine | ClCCN | C2H6ClN
product | [1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | NCCN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C21H22ClFN4O
